US03960847
2-Phenyl-6-fluoro-7-methyl-9-hydroxy-4-oxo-4H-pyrido[1,2-α] pyrimidine-3-carboxylic Acid, n-BUTYL Ester
By substituting [(5-methyl-6-fluoro-3-hydroxy-2-pyridyl)amino] benzylidenemalonic acid, di-n-butyl ester for the [(3-hydroxy-2-pyridyl)amino]methylenemalonic acid, diethyl ester, there is obtained the named compound.

reactant | [(5-methyl-6-fluoro-3-hydroxy-2-pyridyl)amino] benzylidenemalonic acid, di-n-butyl ester | CC=1C=C(C(=NC1F)NC(C1=CC=CC=C1)=C(C(=O)OCCCC)C(=O)OCCCC)O | C24H29FN2O5
reactant | [(3-hydroxy-2-pyridyl)amino]methylenemalonic acid, diethyl ester | OC=1C(=NC=CC1)NC=C(C(=O)OCC)C(=O)OCC | C13H16N2O5
product | 2-Phenyl-6-fluoro-7-methyl-9-hydroxy-4-oxo-4H-pyrido[1,2-α] pyrimidine-3-carboxylic Acid, n-BUTYL Ester | C1(=CC=CC=C1)C=1N=C2N(C(C1C(=O)OCCCC)=O)C(=C(C=C2O)C)F | C20H19FN2O4
